US07884110B2
4-Chloro-N-[2-(7H-pyrrolo[2,3-d]pyrimidine-4-carbonyl)-pyridin-3-yl]-3-trifluoromethyl-benzenesulfonamide
Prepared from 248 mg (0.53 mmol) of 3-[(4-chloro-3-trifluoromethyl-benzenesulfonyl)-methoxymethyl-amino]-pyridine-2-carboxylic acid methoxymethyl-amide, 239 mg (0.58 mmol) of 90% 4-iodo-7-(2-trimethylsilanyl-ethoxymethyl)-7H-pyrrolo[2,3-d]pyrimidine dissolved in 2 mL THF with 0.32 mL of 2 M isopropylmagnesium chloride solution in THF added. All of the resulting intermediate ketone was used in the second step with 4 mL methanol and 4 mL 6N hydrochloric acid mixture to give after purification 29 mg of the final product as a yellow solid.

reactant | 3-[(4-chloro-3-trifluoromethyl-benzenesulfonyl)-methoxymethyl-amino]-pyridine-2-carboxylic acid methoxymethyl-amide | 0.53 mmol, 248 mg | COCNC(=O)C1=NC=CC=C1N(COC)S(=O)(=O)C1=CC(=C(C=C1)Cl)C(F)(F)F | C17H17ClF3N3O5S
reactant | 4-iodo-7-(2-trimethylsilanyl-ethoxymethyl)-7H-pyrrolo[2,3-d]pyrimidine | 0.58 mmol, 239 mg | IC=1C2=C(N=CN1)N(C=C2)COCC[Si](C)(C)C | C12H18IN3OSi
reactant | methanol | 4 mL | CO | CH4O
reactant | hydrochloric acid | 6N, 4 mL | Cl | ClH
solvent | THF | 2 mL | C1CCOC1 | C4H8O
solvent | isopropylmagnesium chloride | 2 M, 0.32 mL | C(C)(C)[Mg]Cl
product | 4-Chloro-N-[2-(7H-pyrrolo[2,3-d]pyrimidine-4-carbonyl)-pyridin-3-yl]-3-trifluoromethyl-benzenesulfonamide | ClC1=C(C=C(C=C1)S(=O)(=O)NC=1C(=NC=CC1)C(=O)C=1C2=C(N=CN1)NC=C2)C(F)(F)F | C19H11ClF3N5O3S
